US05521184
41.3 g (0.17 mol) of 3-nitrophenyl-guanidine nitrate, made into a slurry in 50 ml of isopropanol, are added to a solution of 30 g (0.17 mol) of 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one [described in EP-A-0 233 461] in 250 ml of isopropanol. After the addition of 7.49 g (0.19 mol) of sodium hydroxide, the yellow suspension is boiled at reflux for 8 hours. After cooling to 0°, the mixture is filtered and washed with 200 ml of isopropanol. The filtration residue is made into a sherry in 300 ml of water and stirred for 30 minutes, filtered and washed with 200 ml of water. After again making into a slurry in 200 ml of ethanol and washing with 200 ml of ethanol/diethyl ether (1:1) there is obtained N-(3-nitrophenyl)-4-(3-pyridyl)-2-pyrimidine-amine; m.p. 212°-213° , Rf =0.75 (chlorofoform:menthol=9:1).

reactant | 3-nitrophenyl-guanidine nitrate | 0.17 mol, 41.3 g | [N+](=O)(O)[O-].[N+](=O)([O-])C=1C=C(C=CC1)NC(=N)N
reactant | 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one | 0.17 mol, 30 g | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
reactant | sodium hydroxide | 0.19 mol, 7.49 g | [OH-].[Na+]
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 250 ml | C(C)(C)O | C3H8O
product | N-(3-nitrophenyl)-4-(3-pyridyl)-2-pyrimidine-amine | [N+](=O)([O-])C=1C=C(C=CC1)NC1=NC=CC(=N1)C=1C=NC=CC1 | C15H11N5O2
